US08211908B2
To a solution of 0.23 g of tert-butyl (1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate in 5 mL of ethanol, 5 mL of a 6.0 mol/L hydrogen chloride/ethanol solution was added at room temperature and the mixture was stirred for 1 hour. The solvent was distilled off under reduced pressure, diethyl ether was added to the resultant residue, and the solid was filtered off to obtain 0.22 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | tert-butyl (1-(2-(7-methoxy-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.23 g | COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H30N4O4
reactant | hydrogen chloride ethanol | 6.0 mol/L | Cl.C(C)O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.22 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O | InChI=1S/C16H22N4O2.ClH/c1-22-13-10-15-14(18-11-13)2-3-16(21)20(15)9-8-19-6-4-12(17)5-7-19;/h2-3,10-12H,4-9,17H2,1H3;1H
